US09278944B2
To a solution of N-[1-(2-naphthyl)ethyl]cyclopropylamine hydrochloride (149 mg), (2R)-4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid (208 mg) and 1-hydroxybenzotriazole (122 mg) in N,N-dimethylformamide (6 mL) was added diisopropylethylamine (0.125 μL), and the thereto was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2078 mg) under ice-cooling. The mixture was stirred at room temperature for 19 hours and then to the reaction solution was added 1-normal aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was sequentially washed with water twice, saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure. The residue was triturated with n-hexane-diethyl ether (5:1) to give tert-butyl (2R)-2-({cyclopropyl[1-(2-naphthyl)ethyl]amino}carbonyl)morpholine-4-carboxylate [Ex(163-1)] (153 mg) as a colorless powder.

reactant | N-[1-(2-naphthyl)ethyl]cyclopropylamine hydrochloride | 149 mg | Cl.C1=C(C=CC2=CC=CC=C12)C(C)NC1CC1
reactant | (2R)-4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid | 208 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C(=O)O | C10H17NO5
reactant | 1-hydroxybenzotriazole | 122 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 0.125 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2078 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | tert-butyl (2R)-2-({cyclopropyl[1-(2-naphthyl)ethyl]amino}carbonyl)morpholine-4-carboxylate | 153 mg | C1(CC1)N(C(=O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)C(C)C1=CC2=CC=CC=C2C=C1 | C25H32N2O4
